Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
diverticulitis
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
HPI:
Mr. ___ is a ___ year old gentleman who was recently 
admitted
for diverticulitis complicated by a small abscess. He did well
with conservative management and was discharged ___ to complete 
2
weeks of Augmentin (finished 1 week ago). He reports feeling 
well
for 5 days until last night. Last night he redeveloped
essentially the same symptoms as prior--he describes suprapubic
and LLQ cramping, which is sharp and severe, and he states that
this comes and goes. In addition--this time he reports
experiencing dysuria which he characterizes as "penile and
suprapubic pressure" when he urinates. He states this is a new
symptom. He says overall these symptoms are worse than his
previous presentation. He denies fevers, chills, 
nausea/vomiting,
diarrhea. 

 
Past Medical History:
Past Medical History:
-diverticulitis in ___ treated with cipro and flagyl 
-Testicular cancer s/p orchiectomy and excision of
retroperitoneal lymph nodes without reccurence.

Past Surgical History:
-Left radical orchiectomy (___)
-Excision of retroperitoneal lymph nodes (___)

 
Social History:
___
Family History:
Mother s/p treatment of breast cancer

 
Physical Exam:
d/c pe
General: doing well, tolerating a regular diet, ambulating, pain 
controlled
VSS
neuro: A7OX3
Cardio/pulm; no chest pain or SOB
Abd: flat, soft, minimally tender
___ no lower extremity edema
 
Pertinent Results:
___ 07:11AM BLOOD WBC-9.7 RBC-4.65 Hgb-15.2 Hct-42.3 MCV-91 
MCH-32.7* MCHC-35.9 RDW-12.2 RDWSD-40.4 Plt ___
___ 08:35AM BLOOD WBC-9.8# RBC-5.33 Hgb-16.9 Hct-48.8 
MCV-92 MCH-31.7 MCHC-34.6 RDW-12.2 RDWSD-40.7 Plt ___
___ 07:11AM BLOOD Neuts-81.3* Lymphs-8.0* Monos-9.0 Eos-1.2 
Baso-0.3 Im ___ AbsNeut-7.84* AbsLymp-0.77* AbsMono-0.87* 
AbsEos-0.12 AbsBaso-0.03
___ 08:35AM BLOOD Neuts-78.3* Lymphs-9.9* Monos-9.0 Eos-2.1 
Baso-0.4 Im ___ AbsNeut-7.70* AbsLymp-0.97* AbsMono-0.88* 
AbsEos-0.21 AbsBaso-0.04
___ 07:11AM BLOOD Glucose-79 UreaN-11 Creat-0.8 Na-144 
K-4.3 Cl-103 HCO3-26 AnGap-15
___ 08:35AM BLOOD Glucose-99 UreaN-10 Creat-0.9 Na-145 
K-4.3 Cl-101 HCO3-28 AnGap-16
___ 07:11AM BLOOD Calcium-8.8 Phos-4.2 Mg-2.1
___ 08:35AM BLOOD Albumin-4.8 Calcium-9.6 Phos-3.8 Mg-2.3
 
Brief Hospital Course:
Mr. ___ was admitted overnight. We initially treated him 
with Zosyn which was changed to augmentin. He was eating and 
drinking without issue. He was discharged home and will discuss 
surgery with dr ___ in 3 weeks. 
 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild  
2.  Amoxicillin-Clavulanic Acid ___ mg PO Q12H Duration: 3 Weeks 

please take for 3 weeks 
RX *amoxicillin-pot clavulanate 875 mg-125 mg 1 tablet(s) by 
mouth every twelve (12) hours Disp #*42 Tablet Refills:*0 
3.  Ibuprofen 400 mg PO Q8H:PRN Pain - Moderate Duration: 7 Days 

take with food  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Diverticulitis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the hospital with Diverticulitis. You will 
return home with 3 weeks of antibiotic therapy. You will take 
Augmentin. Please eat yogurt during this time since you are 
taking an antibiotic. Dr. ___ like to see you in three 
weeks to discuss surgical options. If you have any of the 
following symptoms please call the office for advice 
___:
fever greater than 101.5
increasing abdominal distension
increasing abdominal pain
nausea/vomiting
inability to tolerate food or liquids
prolonged loose stool
extended constipation
inability to urinate

You may take Tylenol for pain, Do not take more than 3000mg of 
Tylenol in 24 hours or drink alcohol ___ taking. You may take 
ibuprofen. Take this with food. Do not take for longer than 1 
week. 

 
Followup Instructions:
___